US07745484B2
1-Allyl-3-methylcyclobutanol (2.25000 g, 17.8 mmol) (the 4:1 mixture of cis/trans-isomers) was dissolved in 50 ml of CH2Cl2 and DIEA (5.59 ml, 32.1 mmol) and tert-butyldimethylsilyl triflate (5.73 ml, 25.0 mmol) were added. The mixture was stirred for 2 h and hydrolyzed with water, extracted with 200 ml Et2O (3×each), dried over MgSO4 and evaporated. Glass col. chrom. (10-30% EtOAc in Hex.) provided (1-allyl-3-methylcyclobutoxy)(tert-butyl)dimethylsilane as a yellow oil. Mixture of cis/trans at the cyclobutylring (4:1)

reactant | 1-Allyl-3-methylcyclobutanol | 17.8 mmol, 2.25000 g | C(C=C)C1(CC(C1)C)O | C8H14O
reactant | DIEA | 32.1 mmol, 5.59 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyldimethylsilyl triflate | 25.0 mmol, 5.73 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | water | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (1-allyl-3-methylcyclobutoxy)(tert-butyl)dimethylsilane | C(C=C)C1(CC(C1)C)O[Si](C)(C)C(C)(C)C | C14H28OSi
